US07576063B2
1-Isopropyl-5-(4-methoxyphenyl)-4-[(2,4-dimethoxyphenyl)-methyl]-1,2-dihydro-3H-pyrazole-3-one
To a solution of 3-benzyloxy-4-bromo-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole in tetrahydrofuran (2 mL) was added n-butyllithium (2.6 mol/L hexane solution, 0.89 mL) at −78° C. under argon atmosphere, and the mixture was stirred for 30 minutes. A solution of 2,4-dimethoxybenzaldehyde (0.51 g) in tetrahydrofuran (2 mL) was added to the reaction mixture, and the mixture was stirred at −78° C. for 1 hour. The reaction mixture was directly purified by column chromatography on aminopropylated silica gel (eluent:tetrahydrofuran). The obtained semi purified [3-benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazol-4-yl (2,4-dimethoxyphenyl)methanol was dissolved in ethanol (9 mL), and a catalytic amount of 10% palladium-carbon powder was added to the solution. The mixture was stirred at room temperature under a hydrogen atmosphere overnight. Dichloromethane was added to the reaction mixture, and the insoluble material was removed by filtration. The solvent of the filtrate was removed, and diethyl ether and hexane were added to the residue. The insoluble material was collected by filtration and dried under reduced pressure to give the title compound (0.09 g).

reactant | 3-benzyloxy-4-bromo-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole | C(C1=CC=CC=C1)OC1=NN(C(=C1Br)C1=CC=C(C=C1)OC)C(C)C | C20H21BrN2O2
reactant | n-butyllithium | 2.6 mol/L, 0.89 mL | C(CCC)[Li]
reactant | 2,4-dimethoxybenzaldehyde | 0.51 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-Isopropyl-5-(4-methoxyphenyl)-4-[(2,4-dimethoxyphenyl)-methyl]-1,2-dihydro-3H-pyrazole-3-one | 0.09 g | C(C)(C)N1NC(C(=C1C1=CC=C(C=C1)OC)CC1=C(C=C(C=C1)OC)OC)=O | C22H26N2O4
